US07091361B2
6-Amino-5,7-Dichloro-2-Methylbenzoxazole (4)
6-Amino-5-chloro-2-methylbenzoxazole (10 g, 54.76 mMole) was dissolved in ethyl acetate (150 mL). At room temperature and with good stirring, sulfuryl chloride (8.8 mL, 109.52 mMole) was added drop by drop over a 20-minute period. As the addition proceeds, additional ethyl acetate (350 mL) was added to keep the mixture stirring. After 1 hour the precipitate was filtered off, washed with ether and air-dried. Yield 10.5 g.

reactant | 6-Amino-5-chloro-2-methylbenzoxazole | 54.76 mMole, 10 g | NC1=CC2=C(N=C(O2)C)C=C1Cl | C8H7ClN2O
reactant | sulfuryl chloride | 109.52 mMole, 8.8 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 350 mL | C(C)(=O)OCC | C4H8O2
product | 6-Amino-5,7-Dichloro-2-Methylbenzoxazole | NC1=C(C2=C(N=C(O2)C)C=C1Cl)Cl | C8H6Cl2N2O
